US05705502
50 mg (0.16 mmol) of N-(3-chloro-phenyl)-4-(2-cyano-4-pyridyl)-2-pyrimidineamine are suspended in 2 ml of methanol. 0.58 ml of hydrogen peroxide (30% strength), 0.16 ml of 1-hexene and 11 mg of sodium carbonate are added and the reaction mixture is stirred for 14 hours at RT. The product is isolated by filtration, washed (methanol:water=1:1) and dried at 50° under HV. N-(3-chloro-phenyl)-4-(2-carbamoyl-4-pyridyl)-2-pyrimidineamine is obtained in the form of a yellow powder; m.p. 245°-247°, Rf =0.23 (n-hexane:ethyl acetate=1:1).

reactant | N-(3-chloro-phenyl)-4-(2-cyano-4-pyridyl)-2-pyrimidineamine | 0.16 mmol, 50 mg | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C#N | C16H10ClN5
reactant | hydrogen peroxide | 0.58 ml | OO | H2O2
reactant | 1-hexene | 0.16 ml | C=CCCCC | C6H12
reactant | sodium carbonate | 11 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | methanol | 2 ml | CO | CH4O
product | N-(3-chloro-phenyl)-4-(2-carbamoyl-4-pyridyl)-2-pyrimidineamine | ClC=1C=C(C=CC1)NC1=NC=CC(=N1)C1=CC(=NC=C1)C(N)=O | C16H12ClN5O
